### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): universally open morphisms

### PR DESCRIPTION
**Pull request by chrisflav**
---

This will be used in a follow-up to show isomorphisms are fpqc local on the target.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean [hunk 1]
```diff
@@ -113,6 +114,10 @@ instance : (topologically IsOpenMap).RespectsIso :=
 instance isOpenMap_isLocalAtTarget : IsLocalAtTarget (topologically IsOpenMap) :=
   topologically_isLocalAtTarget' _ fun _ _ _ hU _ ↦ hU.isOpenMap_iff_restrictPreimage
 
+instance : IsLocalAtSource (topologically IsOpenMap) :=
+  topologically_isLocalAtSource' (fun _ ↦ _) fun _ _ _ hU _ ↦ hU.isOpenMap_iff_comp
+
+
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/UnderlyingMap.lean:120]:
```suggestion

```

File: Mathlib/AlgebraicGeometry/Morphisms/UniversallyOpen.lean [hunk 2]
```diff
@@ -0,0 +1,141 @@
...
+lemma Flat.generalizingMap [hf : Flat f] : GeneralizingMap f.base := by
+  have := HasRingHomProperty.of_isLocalAtSource_of_isLocalAtTarget.{u}
+    (topologically GeneralizingMap)
+  show topologically GeneralizingMap f
+  rw [HasRingHomProperty.iff_appLE (P := topologically GeneralizingMap)]
+  intro U V e
+  algebraize [(f.appLE U V e).hom]
+  apply Algebra.HasGoingDown.iff_generalizingMap_primeSpectrumComap.mp
+  convert Algebra.HasGoingDown.of_flat
+  exact hf.1 U V e
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/UniversallyOpen.lean:133]:
```suggestion
  exact HasRingHomProperty.appLE @Flat f ‹_› U V h
```

File: Mathlib/AlgebraicGeometry/Morphisms/UniversallyOpen.lean [hunk 3]
```diff
@@ -0,0 +1,141 @@
...
+    exact IsLocalAtSource.comp (P := topologically GeneralizingMap) hf _
+  obtain ⟨S, rfl⟩ := hX
+  obtain ⟨φ, rfl⟩ := Spec.map_surjective f
+  algebraize [φ.hom]
+  convert PrimeSpectrum.isOpenMap_comap_of_hasGoingDown_of_finitePresentation
+  · rwa [Algebra.HasGoingDown.iff_generalizingMap_primeSpectrumComap]
+  · apply (HasRingHomProperty.Spec_iff (P := @LocallyOfFinitePresentation)).mp inferInstance
+
+/-- Any flat morphism is generalizing. -/
+lemma Flat.generalizingMap [hf : Flat f] : GeneralizingMap f.base := by
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/UniversallyOpen.lean:124]:
```suggestion
lemma Flat.generalizingMap [Flat f] : GeneralizingMap f.base := by
```

**Review by erdOne — APPROVED** [review]

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/AlgebraicGeometry/Morphisms/UniversallyOpen.lean [hunk 4]
```diff
@@ -0,0 +1,141 @@
...
+universe v u
+
+namespace AlgebraicGeometry
+
+variable {X Y : Scheme.{u}} (f : X ⟶ Y)
+
+open CategoryTheory.MorphismProperty
+
+/-- A morphism of schemes `f : X ⟶ Y` is universally open if the base change `X ×[Y] Y' ⟶ Y'`
+along any morphism `Y' ⟶ Y` is (topologically) a open map.
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/UniversallyOpen.lean:35]:
```suggestion
along any morphism `Y' ⟶ Y` is (topologically) an open map.
```

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
